US04699649
2-[(Aminosulfonyl)methyl]benzoic acid hydrazide
To a suspension of 84 g of methyl 2-[(aminosulfonyl)methyl]benzoate in 300 ml of absolute ethanol was added dropwise 22 g of hydrazine monohydrate. The thick suspension was heated at reflux for about 16 hours to yield a solution, then a thick suspension, at reflux temperature. The suspension was cooled to 20° C. filtered, and the residue was washed 1×100 ml of water and suction dried about three hours to provide 49 g of the subject compound; m.p. 221°-222° C.

reactant | methyl 2-[(aminosulfonyl)methyl]benzoate | 84 g | NS(=O)(=O)CC1=C(C(=O)OC)C=CC=C1 | C9H11NO4S
reactant | hydrazine monohydrate | 22 g | O.NN
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-[(Aminosulfonyl)methyl]benzoic acid hydrazide | 49 g | NS(=O)(=O)CC1=C(C(=O)NN)C=CC=C1 | C8H11N3O3S
